US08217065B2
To a 100 mL round-bottom flask was added 2.1 g (12.3 mmol) of 4-chlorobenzoic acid hydrazide, 3.20 g (12.3 mmol) of 4-bromomethyl-3-nitro benzoic acid, 3.54 g (18.5 mmol) of EDC, and 200 mL of DCM. Allowed to stir at room temperature for 18 h. Removed ⅔ of DCM, added water and filtered off white solid and washed with Et2O to give 3-nitro-4-bromomethyl-benzoic acid N′-(4-chloro-benzoyl)-hydrazide as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.99 (s, 1 H) 5.12 (s, 1 H) 7.59-7.64 (m, 2 H) 7.91-7.95 (m, 2 H) 7.96 (d, J=8.21 Hz, 1 H) 8.22-8.29 (m,1 H) 8.57 (dd, J=6.57, 1.77 Hz, 1 H) 10.76 (s, 1 H) 10.94 (dd, J=5.18, 0.88 Hz, 1 H). MS (m/z) 413.9 M (+1), tR=1.28, Meth 10. To a 500 mL round-bottom flask was added 4.95 g (12.0 mmol) of 3-nitro-4-bromomethyl-benzoic acid N′-(4-chloro-benzoyl)-hydrazide, 6.09 g (36.0 mmol) DMC, and 100 mL of DCE. To this pale yellow solution was added 6.70 mL (48.0 mmol) of Et3N, slowly over 5 min. The dark green solution was allowed to stir at 40° C. for 30 min. then cooled to room temperature stirred for 18 h. Removed solvent and purified over a silica plug 10-30% EtOAc/Hep to give the title compound as yellow solid. MS (m/z) 350.0 M (+1), retention time=1.51, Method 10.

reactant | 4-chlorobenzoic acid hydrazide | 12.3 mmol, 2.1 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | 4-bromomethyl-3-nitro benzoic acid | 12.3 mmol, 3.20 g | BrCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | EDC | 18.5 mmol, 3.54 g
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-nitro-4-bromomethyl-benzoic acid N′-(4-chloro-benzoyl)-hydrazide | ClC1=CC=C(C(=O)NNC(C2=CC(=C(C=C2)CBr)[N+](=O)[O-])=O)C=C1 | C15H11BrClN3O4
